US05264415
2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide
To a 500 mL flask was charged 75.0 g (0.24 mole) of alpha-n-butyl-alpha-(4-chlorophenyl)-1H-1,2,4-triazole-1-propanenitrile followed by 300 mL of 95% sulfuric acid. The mixture was stirred at 90° C. for 7 days after which the mixture was cooled to room temperature, diluted with ice and neutralized with ammonium hydroxide until basic (pH 8). The product was extracted with ethylene dichloride then washed with water and dried over magnesium sulfate. The solvent was concentrated and gave 45 g (56.5% yield) of a solid, Example 157 of Table 1.

reactant | alpha-n-butyl-alpha-(4-chlorophenyl)-1H-1,2,4-triazole-1-propanenitrile | 0.24 mole, 75.0 g | C(CCC)C(C#N)(CN1N=CN=C1)C1=CC=C(C=C1)Cl | C15H17ClN4
reactant | sulfuric acid | 300 mL | S(O)(O)(=O)=O | H2O4S
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide | 45 g, 56.5% yield | ClC1=CC=C(C=C1)C(C(=O)N)(CCCC)CN1N=CN=C1 | C15H19ClN4O
